*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.00e+00[uF]/16[V]
* Murata P/N :GRM155C81C105ME15
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C81C105ME15 Port1 Port2
C01 Port1 N01 5.57e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.54e-10
R03 N02 N03 9.87e-03
C04 N03 N04 2.07e-05
R04 N03 N04 1.86e+02
C05 N04 N05 2.14e-05
R05 N04 N05 3.99e+01
C06 N05 N06 1.82e-05
R06 N05 N06 5.02e+00
C07 N06 N07 1.34e-05
R07 N06 N07 8.60e-01
C08 N07 N08 1.08e-05
R08 N07 N08 9.61e-02
C09 N08 N09 8.57e-06
R09 N08 N09 1.94e-02
L10 N09 N10 3.35e-11
R10 N09 N10 1.90e-01
L11 N10 N11 1.46e-10
R11 N10 N11 4.05e-02
C12 N11 N12 3.84e-06
L12 N11 N12 1.41e-11
R12 N11 N12 4.67e-03
C13 N12 N13 1.96e-06
L13 N12 N13 1.48e-11
R13 N12 N13 7.07e-03
C14 N13 Port2 1.00e-12
L14 N13 Port2 2.96e-11
R14 N13 Port2 2.58e+00
.ENDS GRM155C81C105ME15
