*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5S(-55to85[deg])/4.70e+00[uF]/25[V]
* Murata P/N :GRM155C61E475ME15
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C61E475ME15 Port1 Port2
C01 Port1 N01 3.74e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 1.56e-10
R03 N02 N03 4.17e-03
C04 N03 N04 2.08e-04
R04 N03 N04 2.08e+01
C05 N04 N05 1.79e-04
R05 N04 N05 2.52e+00
C06 N05 N06 1.84e-04
R06 N05 N06 3.18e-01
C07 N06 N07 1.42e-04
R07 N06 N07 4.04e-02
C08 N07 N08 1.07e-04
R08 N07 N08 6.73e-03
L09 N08 N09 2.63e-11
R09 N08 N09 2.39e-01
L10 N09 N10 3.82e-11
R10 N09 N10 4.45e-02
L11 N10 N11 1.89e-10
R11 N10 N11 2.12e-02
C12 N11 N12 1.26e-05
L12 N11 N12 4.16e-11
R12 N11 N12 2.40e-03
C13 N12 Port2 6.06e-06
L13 N12 Port2 4.53e-11
R13 N12 Port2 2.99e-03
.ENDS GRM155C61E475ME15
