*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.50e+01[uF]/2.5[V]
* Murata P/N :GRM155C80E156ME01
* Property : C = 1.50e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C80E156ME01 Port1 Port2
C01 Port1 N01 7.91e-06
R01 Port1 N01 3.33e+06
L02 N01 N02 1.38e-10
R03 N02 N03 3.83e-03
C04 N03 N04 1.83e-04
R04 N03 N04 2.15e+01
C05 N04 N05 2.46e-04
R05 N04 N05 2.26e+00
C06 N05 N06 3.11e-04
R06 N05 N06 2.40e-01
C07 N06 N07 3.00e-04
R07 N06 N07 2.61e-02
C08 N07 N08 2.13e-04
R08 N07 N08 3.92e-03
L09 N08 N09 1.58e-11
R09 N08 N09 1.32e-01
L10 N09 N10 3.47e-11
R10 N09 N10 3.48e-02
L11 N10 N11 1.53e-10
R11 N10 N11 1.75e-02
C12 N11 N12 3.68e-06
L12 N11 N12 1.36e-10
R12 N11 N12 4.83e-03
C13 N12 Port2 2.11e-11
L13 N12 Port2 1.31e-11
R13 N12 Port2 2.69e+00
.ENDS GRM155C80E156ME01
