*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.00e+01[uF]/4[V]
* Murata P/N :GRM155C80G106ME44
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C80G106ME44 Port1 Port2
C01 Port1 N01 6.84e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.39e-10
R03 N02 N03 4.56e-03
C04 N03 N04 1.76e-03
R04 N03 N04 4.18e+00
C05 N04 N05 7.29e-04
R05 N04 N05 1.79e+00
C06 N05 N06 6.42e-04
R06 N05 N06 4.24e-01
C07 N06 N07 8.18e-04
R07 N06 N07 8.38e-02
C08 N07 N08 5.94e-04
R08 N07 N08 2.21e-02
C09 N08 N09 3.29e-04
R09 N08 N09 4.38e-03
L10 N09 N10 1.84e-11
R10 N09 N10 1.08e-01
L11 N10 N11 3.59e-11
R11 N10 N11 7.79e-02
L12 N11 N12 7.60e-11
R12 N11 N12 3.28e-02
L13 N12 N13 2.13e-10
R13 N12 N13 1.17e-02
C14 N13 N14 4.06e-05
L14 N13 N14 3.10e-11
R14 N13 N14 1.65e-03
C15 N14 N15 1.72e-05
L15 N14 N15 3.70e-11
R15 N14 N15 2.29e-03
C16 N15 Port2 2.18e-11
L16 N15 Port2 1.28e-11
R16 N15 Port2 1.34e+00
.ENDS GRM155C80G106ME44
