*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/2.20e+01[uF]/4[V]
* Murata P/N :GRM158C80G226ME01
* Property : C = 2.20e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM158C80G226ME01 Port1 Port2
C01 Port1 N01 1.40e-05
R01 Port1 N01 2.27e+06
L02 N01 N02 1.27e-10
R03 N02 N03 3.08e-03
C04 N03 N04 6.81e-04
R04 N03 N04 5.84e+00
C05 N04 N05 8.10e-04
R05 N04 N05 5.56e-01
C06 N05 N06 7.81e-04
R06 N05 N06 6.97e-02
C07 N06 N07 7.52e-04
R07 N06 N07 7.76e-03
C08 N07 N08 5.72e-04
R08 N07 N08 1.03e-03
L09 N08 N09 2.28e-11
R09 N08 N09 1.15e-01
L10 N09 N10 5.90e-11
R10 N09 N10 3.00e-02
L11 N10 N11 2.49e-10
R11 N10 N11 1.18e-02
C12 N11 N12 6.10e-05
L12 N11 N12 4.07e-11
R12 N11 N12 1.50e-03
C13 N12 N13 4.55e-05
L13 N12 N13 3.27e-11
R13 N12 N13 1.60e-03
C14 N13 Port2 7.93e-12
L14 N13 Port2 2.02e-11
R14 N13 Port2 3.24e+00
.ENDS GRM158C80G226ME01
