*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/3.30e-02[uF]/50[V]
* Murata P/N :GRM155C71H333KE19
* Property : C = 3.30e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C71H333KE19 Port1 Port2
C01 Port1 N01 3.34e-08
R01 Port1 N01 1.52e+09
L02 N01 N02 1.86e-10
R03 N02 N03 2.83e-02
C04 N03 N04 5.60e-06
R04 N03 N04 6.12e+02
C05 N04 N05 1.75e-05
R05 N04 N05 3.69e+01
C06 N05 N06 8.68e-06
R06 N05 N06 1.89e+01
C07 N06 N07 7.46e-06
R07 N06 N07 2.73e+00
C08 N07 N08 6.19e-06
R08 N07 N08 3.96e-01
C09 N08 N09 6.73e-06
R09 N08 N09 6.45e-02
C10 N09 N10 4.21e-06
R10 N09 N10 2.06e-02
L11 N10 N11 2.64e-11
R11 N10 N11 3.59e-01
L12 N11 N12 8.31e-11
R12 N11 N12 9.97e-02
C13 N12 N13 2.95e-07
L13 N12 N13 9.63e-12
R13 N12 N13 1.46e-02
C14 N13 N14 9.10e-08
L14 N13 N14 1.71e-11
R14 N13 N14 2.53e-02
C15 N14 Port2 1.24e-11
L15 N14 Port2 2.97e-11
R15 N14 Port2 4.27e+00
.ENDS GRM155C71H333KE19
