*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.00e-01[uF]/50[V]
* Murata P/N :GRM155C81H104KE19
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C81H104KE19 Port1 Port2
C01 Port1 N01 1.02e-07
R01 Port1 N01 5.00e+08
L02 N01 N02 1.55e-10
R03 N02 N03 1.07e-02
C04 N03 N04 1.96e-05
R04 N03 N04 2.03e+02
C05 N04 N05 3.54e-05
R05 N04 N05 1.90e+01
C06 N05 N06 2.72e-05
R06 N05 N06 3.87e+00
C07 N06 N07 2.20e-05
R07 N06 N07 6.44e-01
C08 N07 N08 2.29e-05
R08 N07 N08 6.18e-02
C09 N08 N09 1.76e-05
R09 N08 N09 1.29e-02
L10 N09 N10 1.40e-11
R10 N09 N10 1.69e-01
L11 N10 N11 9.89e-11
R11 N10 N11 5.05e-02
L12 N11 N12 1.75e-11
R12 N11 N12 4.17e-02
C13 N12 N13 8.81e-07
L13 N12 N13 1.12e-11
R13 N12 N13 1.14e-02
C14 N13 N14 2.87e-07
L14 N13 N14 1.86e-11
R14 N13 N14 2.23e-02
C15 N14 N15 2.84e-10
L15 N14 N15 1.78e-12
R15 N14 N15 2.42e-01
C16 N15 Port2 5.46e-12
L16 N15 Port2 5.06e-11
R16 N15 Port2 2.75e+01
.ENDS GRM155C81H104KE19
