*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/1.00e-01[uF]/50[V]
* Murata P/N :GRM155C71H104ME19
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C71H104ME19 Port1 Port2
C01 Port1 N01 1.01e-07
R01 Port1 N01 5.00e+08
L02 N01 N02 1.89e-10
R03 N02 N03 1.15e-02
C04 N03 N04 1.88e-05
R04 N03 N04 2.12e+02
C05 N04 N05 2.61e-05
R05 N04 N05 2.22e+01
C06 N05 N06 2.79e-05
R06 N05 N06 2.67e+00
C07 N06 N07 2.44e-05
R07 N06 N07 5.19e-01
C08 N07 N08 2.35e-05
R08 N07 N08 8.85e-02
C09 N08 N09 2.27e-05
R09 N08 N09 1.76e-02
C10 N09 N10 2.62e-05
R10 N09 N10 5.06e-03
L11 N10 N11 7.71e-12
R11 N10 N11 1.30e-01
L12 N11 N12 1.90e-11
R12 N11 N12 1.08e-01
L13 N12 N13 1.04e-10
R13 N12 N13 6.22e-02
C14 N13 N14 1.01e-06
L14 N13 N14 1.02e-11
R14 N13 N14 1.09e-02
C15 N14 N15 2.10e-07
L15 N14 N15 2.51e-11
R15 N14 N15 2.17e-02
C16 N15 Port2 1.07e-11
L16 N15 Port2 2.91e-11
R16 N15 Port2 6.98e+00
.ENDS GRM155C71H104ME19
